US06391887B1
2-(Pivaloylamino)phenylboric acid (F. Guiller, F. Nivoliers, A. Godard, F. Marsais, G. Quéguiner, M. A. Siddiqui, V. Snieckus, J. Org. Chem. 1995, 60, 292) (0.66 g, 3.0 mmol), 3-(trifluoromethylsulfonyloxy)-2,5-dihydrofuran-4-carboxylic acid-methyl ester (0.69 g, 2.5 mmol), tetrakis(triphenylphosphine)palladium (69 mg, 0.06 mmol) and a 2M aqueous Na2CO3 solution (1.26 ml, 2.52 mmol) are refluxed in DME (40 ml) for 2.5 hours. The batch is diluted with ethyl acetate, washed with water and saturated NaCl, dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography on silica gel with ethyl acetate-hexane yields 0.65 g (87%) of 4-(2-(pivaloylamino)phenyl)-2,5-dihydrofuran-3-carboxylic acid-methyl ester (flash point 105-6° C.). 0.59 g (1.94 mmol) of it is then refluxed in concentrated hydrochloric acid for 2 hours. The batch is poured onto ice and extracted with ethyl acetate and dichloromethane. After drying (Na2SO4) and concentration by evaporation, the residue is heated for two more hours with concentrated HCl and worked up as described: 0.22 g (58%) of product.

reactant | 2-(Pivaloylamino)phenylboric acid | C(C(C)(C)C)(=O)NC1=C(C=CC=C1)OB(O)O | C11H16BNO4
reactant | 3-(trifluoromethylsulfonyloxy)-2,5-dihydrofuran-4-carboxylic acid-methyl ester | 2.5 mmol, 0.69 g | COC(=O)C1=C(COC1)OS(=O)(=O)C(F)(F)F | C7H7F3O6S
reactant | Na2CO3 | 2.52 mmol, 2M, 1.26 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 40 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.06 mmol, 69 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-(pivaloylamino)phenyl)-2,5-dihydrofuran-3-carboxylic acid-methyl ester | 0.65 g, 87% | COC(=O)C=1COCC1C1=C(C=CC=C1)NC(C(C)(C)C)=O | C17H21NO4
